US06288120B1
5-{3-[3-(3-Chloro-phenyl)-propylamino]-propyl}-thiophene-2-carboxylic acid methyl ester
A solution of 5-(3-amino-propyl)-thiophene-2-carboxylic acid methyl ester (0.118 g, 0.5 mmol) and diisopropylethylamine (0.071 g, 0.55 mmol) in 10 mL MeOH was stirred at room temperature for 30 minutes and 3-(3-chloro-phenyl)-propionaldehyde (0.093 g, 0.55 mmol) was added. The mixture was stirred for 90 minutes. The reaction was cooled to 0° C., NaBH4 (0.83 mL, 5.98 mmol) was added and the mixture was stirred for 30 minutes. The reaction was quenched with 1:1 NaHCO3:H2O and was washed with CH2Cl2. The CH2Cl2 extracts were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to afford the title compound as an oil (171 mg). MS 352 (M+1).

reactant | 5-(3-amino-propyl)-thiophene-2-carboxylic acid methyl ester | 0.5 mmol, 0.118 g | COC(=O)C=1SC(=CC1)CCCN | C9H13NO2S
reactant | diisopropylethylamine | 0.55 mmol, 0.071 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(3-chloro-phenyl)-propionaldehyde | 0.55 mmol, 0.093 g | ClC=1C=C(C=CC1)CCC=O | C9H9ClO
reactant | NaBH4 | 5.98 mmol, 0.83 mL | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 5-{3-[3-(3-Chloro-phenyl)-propylamino]-propyl}-thiophene-2-carboxylic acid methyl ester | 171 mg | COC(=O)C=1SC(=CC1)CCCNCCCC1=CC(=CC=C1)Cl | C18H22ClNO2S
